US04096267
Preparation of [1-Oxo-2-(4-hydroxyphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid
A stirred mixture of [1-oxo-2-(4-methoxyphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid (1.80 g., 0.0046 mole), Example 8, Step E, 48% hydrobromic acid (50 ml.) and acetic acid (50 ml.) is heated at reflux for one hour, then poured into crushed ice-water (800 ml.) to precipitate 900 mg. of [1-oxo-2-(4-hydroxyphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]-acetic acid which melts at 220°-222° C. after crystallization from acetic acid:water, 1:1, and nitromethane.

reactant | [1-oxo-2-(4-methoxyphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | 0.0046 mole, 1.80 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)OC | C19H16Cl2O5
reactant | hydrobromic acid | 50 ml | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | [1-Oxo-2-(4-hydroxyphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)O | C18H14Cl2O5
